US03984422
a. [[(3-Methyl-5-isoxazolyl)amino]methylene]malonic acid diethyl ester
112.5 g. of 3-Methyl-5-aminoisoxazole (1.14 mol.) and 248 g. of ethoxymethylenemalonic acid diethyl ester (1.14 mol.) are heated with stirring for 45 minutes at 130°. After this period, ethanol is removed under reduced pressure. The residue solidifies on cooling and is recrystallized from ethanol, m.p. 134°-136°, yield 245 g. (80%).

reactant | 3-Methyl-5-aminoisoxazole | 1.14 mol | CC1=NOC(=C1)N | C4H6N2O
reactant | ethoxymethylenemalonic acid diethyl ester | 1.14 mol | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
product | [[(3-Methyl-5-isoxazolyl)amino]methylene]malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=CNC1=CC(=NO1)C)=O | C12H16N2O5
